US07514419B2
To a stirring solution of 2,5-dimethyl-4-hydroxy-benzaldehyde (0.43 g, 2.86 mmol) in DMF (8 mL) at room temperature was added imidazole (0.43 g, 6.29 mmol) and chloro-triisopropyl-silane (0.74 mL, 3.43 mmol). The mixture was stirred at room temperature for 16 hrs. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (15:75) to afford 2,5-dimethyl-4-triisopropylsilanyloxy-benzaldehyde as a colorless oil (0.7 g, 80%): 1H NMR (300 MHz, DMSO-d6): δ 10.07 (s, 1H), 7.65 (s, 1H), 6.69 (s, 1H), 2.55 (s, 3H), 2.21 (s, 3H), 1.35 (m, 3H), 1.10 (d, J=6.9 Hz, 18H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=5% ethyl acetate in hexanes; Rf=0.68.

reactant | 2,5-dimethyl-4-hydroxy-benzaldehyde | 2.86 mmol, 0.43 g | CC1=C(C=O)C=C(C(=C1)O)C | C9H10O2
reactant | imidazole | 6.29 mmol, 0.43 g | N1C=NC=C1 | C3H4N2
reactant | chloro-triisopropyl-silane | 3.43 mmol, 0.74 mL | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2,5-dimethyl-4-triisopropylsilanyloxy-benzaldehyde | 0.7 g, 80% | CC1=C(C=O)C=C(C(=C1)O[Si](C(C)C)(C(C)C)C(C)C)C | C18H30O2Si
